* C:\Users\circuit\spice\test_cmos_or.asc
V1 VDD 0 1.8
V2 A 0 PULSE(0 1.8 1n 60p 60p 5n 10n)
V3 B 0 PULSE(0 1.8 10n 60p 60p 5n 10n)
M1 Q_BAR B 0 0 NMOS l=0.18u w=1.8u m=1
M2 Q_BAR A 0 0 NMOS l=0.18u w=1.8u m=1
M3 Q_BAR B N001 VDD PMOS l=0.18u w=1.8u m=1
M4 N001 A VDD VDD PMOS l=0.18u w=1.8u m=1
M5 Q Q_BAR 0 0 NMOS l=0.18u w=1.8u m=1
M6 Q Q_BAR VDD VDD PMOS l=0.18u w=1.8u m=1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 40n
.backanno
.end
