* C:\Users\circuit\spice\test_cmos_or.asc
V1 VDD 0 1.8
V2 N001 0 PULSE(0 1.8 1n 60p 60p 5n 10n)
V3 N002 0 PULSE(0 1.8 10n 60p 60p 5n 10n)
XX1 N001 N002 VDD 0 VOUT VOUT2 my_cmos_or

* block symbol definitions
.subckt my_cmos_or A B VDD VSS Q Q_BAR
M1 Q_BAR B VSS VSS CMOSN l=0.18u w=1.8u m=1
M2 Q_BAR A VSS VSS CMOSN l=0.18u w=1.8u m=1
M3 Q_BAR B N001 VDD CMOSP l=0.18u w=1.8u m=1
M4 N001 A VDD VDD CMOSP l=0.18u w=1.8u m=1
M5 Q Q_BAR VSS VSS CMOSN l=0.18u w=1.8u m=1
M6 Q Q_BAR VDD VDD CMOSP l=0.18u w=1.8u m=1
.ends my_cmos_or

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 40n
.include "tsmc018.mdl"
.backanno
.end
